US07176224B2
2-Methyl-3-(4-{2-[5-methyl-2-(3-thiophen-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-2-(4-tert-butylphenoxy)-propionic acid
Toluene-4-sulfonic acid 2-(5-methyl-2-(3-thiophen-2-yl-phenyl)-oxazol-4-yl)-ethyl ester(0.132 mmol) (see Ex. 5, Part B) was added to a one dram, screw-cap vial and diluted with ethanol (0.5 mL). To this solution are added 3-(4-hydroxyphenyl)-2-methyl-2-(4-tert-butylphenoxy)-propionic acid ethyl ester (0.5 mL of a 0.264 M solution in ethanol, 0.132 mmol) (see Ex. 15, Part B) and polystyrene bound 1,5,7-triazabicyclo[4.4.0]dec-5-ene (100–125 mg, 2.6 mmol/g) and the vial was tightly closed. The reaction vessel was heated in a block heater for 24–48 h at 55° C., or until TLC or MS analysis indicates the disappearance of starting materials. The suspension was filtered while warm and the residue washed with ethanol (1 mL). The solution was treated with aqueous NaOH (5N solution, 100 μl) and the vial resealed tightly. The solution was heated in a block heater at 55° C. for 3–16 h, or until MS analysis indicates the completion of the hydrolysis. The solvents are removed with a stream of nitrogen or under reduced pressure and the residue redissolved in 1 mL water. The solution was acidified with aqueous HCl (5N solution, 150 μl), often causing precipitation of product. The suspension was diluted with dichloromethane (3 mL) and the resultant biphasic solution was filtered through a Chrom-Elut column to remove water. The filtrate was concentrated in vacuo and the resultant residue was purified by preparative thin-layer silica chromatography eluting with 95:5 CH2Cl2:MeOH to produce a white solid (10%). MS [EI+] 596 (M+H)+, [EI−] 594 (M−H)+

reactant | Toluene-4-sulfonic acid 2-(5-methyl-2-(3-thiophen-2-yl-phenyl)-oxazol-4-yl)-ethyl ester | 0.132 mmol | CC1=C(N=C(O1)C1=CC(=CC=C1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C23H21NO4S2
reactant | 3-(4-hydroxyphenyl)-2-methyl-2-(4-tert-butylphenoxy)-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(OC1=CC=C(C=C1)C(C)(C)C)C)=O | C22H28O4
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 2-Methyl-3-(4-{2-[5-methyl-2-(3-thiophen-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-2-(4-tert-butylphenoxy)-propionic acid | 10% | CC(C(=O)O)(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC(=CC=C1)C=1SC=CC1)OC1=CC=C(C=C1)C(C)(C)C | C36H37NO5S
